2135-09-26 17:03:00 Physician Resident Progress Note
Chief Complaint: SDH, Pneumonia
   24 Hour Events:
   Patient is a 82 y/o M on coumadin for [**Hospital3 1974**] AVR who fell on [**9-19**],
   found to have left subdural hematoma measuring 2.5 with affacement of
   adjacent sulci, mass effect and subfalcine herniation.
   He was taken to the OR emergently [**2135-9-19**] for Left craniotomy for
   evacuation of subdural hematoma. INR 4.2, he was given multiple units
   of [**Month/Day/Year **].
   He was extubated [**2135-9-20**] in the AM, tolerated well initially.
   [**9-21**]: desat episode to 80's, CT chest showed lg pleural effusion. given
   lasix, IVF stopped, started on lasix Gtt. started on nitro gtt to
   decrease preload and control HTN
   [**9-23**]: lasix gtt and nitro discontinued
   [**9-24**]: increased work of breathing, respiratory distress, tiring out.
   was reintubated. in setting of pulmonary edema. vanco started
   [**9-25**]: asymmetric pupils, stat head ct with no change.
   [**9-26**]: Sputum growing Klebsiella and strep pneumonia
   Allergies:
   Procainamide
   Arthralgia/Arth
   Morphine
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2135-9-26**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   1. Atrial Fibrillation
 on coumadin and amiodarone
   --s/p pacemaker placement
 Dr. [**Last Name (STitle) 1788**] - pacemaker originally
   placed [**2118**] d/t AV block
   --s/p generator change in [**2128**]
   --s/p lead revision [**4-9**]
   2. Bicuspid aortic valve disease, s/p [**First Name8 (NamePattern2) **] [**Male First Name (un) **] replacement - [**2118**]
   3. CHF - TTE [**3-12**]: LVEF>55%, dilated LA, dilated LV, Tr AR. Mod
   MR. Mod to severe TR. Significant pulmonic regurg. severe PA
   HTN.
   4. Hypothyroidism
 secondary to amiodarone
   5. Pancytopenia - anogenic myeloid metaplasia
   -- s/p bone marrow bx
   6. BPH
 Dr. [**Last Name (STitle) **]
   7. Hiatal hernia w/o GERD
   8. s/p cholecystectomy [**2117**]
   9. HTN
   10. hypercholesterolemia
   11. VSD
   12. s/p coronary cath [**2126**] - showed clean coronaries
   13. Aberrant L subclavian artery, 50% tracheal compression.
   14. Traumatic L upper thigh bleed
   15. Lumbar scoliosis
   16. Sciatica with posterior disc protrusion
   17. CRF - baseline Cr 2.3-3.0
   18. Gout
   19. Vasculitis
   20. ex-lap/LOA [**2130**]
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-9-26**] 05:02 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 59 (55 - 83) bpm
   BP: 151/67(93) {103/48(65) - 151/69(93)} mmHg
   RR: 21 (16 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 94.7 kg (admission): 68 kg
   Height: 70 Inch
             Total In:
                                                                  3,695 mL
                                                                    901 mL
   PO:
             TF:
                                                                    680 mL
                                                                    640 mL
   IVF:
                                                                    535 mL
                                                                    211 mL
   Blood products:
                                                                  1,880 mL
   Total out:
                                                                  1,435 mL
                                                                  1,005 mL
   Urine:
                                                                  1,435 mL
                                                                  1,005 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,260 mL
                                                                   -104 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 33 cmH2O
   Plateau: 20 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 98%
   ABG: 7.51/35/112/26/5
   Ve: 8.9 L/min
   PaO2 / FiO2: 224
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: No(t) Normocephalic, Endotracheal tube, NG
   tube, ? elevated JVP
   Lymphatic: Cervical WNL, Supraclavicular WNL, Cervical adenopathy
   Cardiovascular: mechanical heart sounds from AVR
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   r>L, Rhonchorous: r>l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Sedated, Tone: Not assessed
   Labs / Radiology
   136 K/uL
   9.0 g/dL
   246 mg/dL
   2.2 mg/dL
   26 mEq/L
   3.4 mEq/L
   61 mg/dL
   120 mEq/L
   154 mEq/L
   27.2 %
   7.0 K/uL
        [image002.jpg]
                             [**2135-9-24**]  02:31 PM
                             [**2135-9-24**]  09:48 PM
                             [**2135-9-25**]  03:36 AM
                             [**2135-9-25**]  03:53 AM
                             [**2135-9-25**]  04:55 AM
                             [**2135-9-25**]  06:33 AM
                             [**2135-9-25**]  09:06 AM
                             [**2135-9-25**]  05:30 PM
                             [**2135-9-26**]  04:20 AM
                             [**2135-9-26**]  04:35 AM
   WBC
   7.8
   6.0
   7.0
   Hct
   23.2
   20.9
   27.2
   Plt
   120
   126
   136
   Cr
   2.3
   2.3
   2.2
   TCO2
   30
   28
   27
   27
   25
   29
   Glucose
   154
   144
   195
   246
   Other labs: PT / PTT / INR:27.7/57.7/2.8, CK / CKMB /
   Troponin-T:569/13/0.07, Fibrinogen:300 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:3.3 g/dL, Ca++:8.9 mg/dL, Mg++:2.8 mg/dL, PO4:1.8 mg/dL
   Fluid analysis / Other labs: INR trend:
   [**9-25**]: 3.8 --> repeat 2.7
   [**9-24**]: 2.6
   [**9-23**]: 2.2
   [**9-22**]: 1.6
   [**9-21**]: 1.3
   [**9-20**]: 1.2
   [**9-19**]: 1.1
   Imaging: [**2135-9-25**] Head CT: IMPRESSION: No significant change in left
   parieto-occipital intraparenchymal hemorrhage and bilateral subdural
   hematomas. Stable post-surgical changes following left frontal
   craniotomy.
   [**9-24**]: PFI: No evidence of new hemorrhage.
   [**9-21**]: 1. Stable post-surgical changes following left frontal
   craniotomy, with air-
   blood level overlying the left cerebral convexity, stable.
   2. Stable left parieto-occipital intraparenchymal hemorrhage, with mass
   effect on the lateral ventricular occipital [**Doctor Last Name 758**] and atrium.
   3. Stable right frontal subdural hematoma.
   Microbiology: [**2135-9-24**]: Sputum growing strep pneumonia (moderate) and
   Klebsiella (sparse)
   Assessment and Plan
   Patient is am 82 y/o M with history of atrial fibrillation and AVR on
   coumadin, amiodarone, s/p Pacemaker, diastolic CHF, admitted s/p fall
   with SDH and s/p neurosurgery evacuation ([**9-19**]) for bleed with
   hernation, course complicated by diastolic CHF exacerbation, and now
   with strep pneumonia
    Respiratory failure: Initially intubated for [**Doctor First Name 213**] [**9-19**], extubated
   [**9-20**]. ReIntubated [**9-24**] after 1 day on bipap for increased work of
   breathing and airway protection in setting of pulmonary edema and
   pneumonia. Etiology of resp failure is infections and cardiogenic.
   Patient is alkalotic, is overbreathing the [**Last Name (LF) 494**], [**First Name3 (LF) **] decrease tidal
   volume
   - currently on AC 50%/ 600/ 14/ 5
 decrease TV to 500.
   - no currently on sedation, nor responsive to command
   - check CK, triglycerides, LFTs on propofol
   Pneumonia/Fever: Patient with purulent sputum, culture grew 4+ Strep
   pneumo and sparse klebsiella. spiked fever of 100.7 today. Fever likely
   secondary to PNA, which is not covered by vanco.
   - discontinue Vancomycin (day 1: [**9-24**])
   - start Ceftriaxone 1gm daily
   - send blood cultures and resend sputum culture
   Subdural hemorrhage: s/p Craniotomy and evacuation [**9-19**], done
   emergently. had unequal pupils [**2-24**] and had stat Head CT showing no
   inrval change
   - continue dilantin ppx
   - will need repeat head CT 2 weeks after [**Doctor First Name 213**]
   - make sure neurosurg continues to follow, will ask them about
   restarting coumadin despite high INR, also as them about prognosis and
   mental status over the past week.
   Anemia: unclear etiology. Patient is hypercoaguable, s/p fall. Not
   bleeding in brain, may have spontaneous RP bleed. Hct went from 23 ->
   20 on Sunday, responded to 2 units pRBCs. Patient also has underlying
   myeloid metaplasia
   - check [**Hospital1 7**] Hcts
   - hemolysis labs
   - DIC labs
   - iron studies
   - will consider abd imaging if Hct continues to fall
   AVR/Coagulpathy: patient with AVR with [**Hospital3 1974**] valve. needs to be
   anticoagulated. Warfarin has been held since admission. Pt recieved 3
   units [**Hospital3 **] on admission. on [**9-25**] patient had INR 3.8 adn revieved a
   total of 4 units [**Month/Year (2) **]. and INR now down to 2.8. etiology of new
   coagulopathy unclear, but may be that intial [**Name (NI) **] wore off. is also
   likely vitamin K deficient.  PTT and PT are elvated. [**Month (only) 51**] be from
   abnormal liver function.
   - will continue to monitor INR for now
   - discontinue heparin SC for now
   - will hold off on restarting warfarin and coumadin, will discuss with
   neurosurg
   - Hold warfarin 1mg daily for now
   Altered mental status:  Pat ient unresponsive off sedation.  Etiology
   is likely multifactorial: subdural, hypernatremia, uremia, and
   infection.  will discuss with neurosurgery to assess trend of his exam
   over hospital course.
   Diastolic heart failure: EF >60% ([**3-12**]). Patient was on lasix drip. on
   torsemide 20mg daily at home. currently looks euvolemic. JVP is
   diffucult to assess
   - Goal I/O negative. looks euvolemic today, will hold diuresis unless
   is positive
   Transaminitis: unlikely from propofol as trigylcerides are normal.
   Shock liver unlikely, has not been hypotensive. [**Month (only) 51**] be septic.
   - will trend LFTs
   - hepatitis panel
   - consider right upper quad u/s if not trending down tomorrow
   CKD: baseline creatinine is 2.3-2.8. currently 2.2
   - renally dose meds
   Hypertension: not will controlled, BP ranges from 110-150 systolic.
   - Hydralazine 25mg TID
   - Isosorbide mononitrate 10 PO BID
   - metoprolol 25mg [**Hospital1 7**]
   Atrial fibrillation:
   Amiodarone 200 [**Hospital1 7**]
   Hypothyroidism
   - Switch IV levothyroxine to home dose of 75mcg PO levothyroxine
   HYperlipidemia: continue statin
   Hypernatremia: has been trending up, likely contributing to mental
   status
   - increase free water boluses from 200q6 to 300q4.
   BPH: continue tamsulosin and finastride
   ICU Care
   Nutrition:
   Comments: tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2135-9-19**] 10:14 AM
   20 Gauge - [**2135-9-25**] 04:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2135-09-27 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.2
F - [**2135-9-27**] 12:00 AM
   - TV decreased to 500
   - 102.2 fever spike at 12am, cultured earlier in day. ordered blood
   cultures for the morning
   - hypoxic to 90%, PEEP increased to 10 and stat Chest Xray done,
   showing worsening right lower infiltrate.
   - abx broadened to cefepime and vanco
   - LFTs elevated ordered hep panel and RUQ u/s (NPO for this in AM)
   Allergies:
   Procainamide
   Arthralgia/Arth
   Morphine
   Confusion/Delir
   Last dose of Antibiotics:
   Cefipime - [**2135-9-27**] 04:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2135-9-26**] 08:15 AM
   Fentanyl - [**2135-9-27**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-9-27**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 37.4
C (99.4
   HR: 60 (55 - 62) bpm
   BP: 134/55(78) {107/46(63) - 158/70(96)} mmHg
   RR: 20 (16 - 30) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
   Wgt (current): 94.7 kg (admission): 68 kg
   Height: 70 Inch
             Total In:
                                                                  2,137 mL
                                                                  1,106 mL
   PO:
             TF:
                                                                  1,440 mL
   IVF:
                                                                    347 mL
                                                                    506 mL
   Blood products:
   Total out:
                                                                  1,695 mL
                                                                    295 mL
   Urine:
                                                                  1,695 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    442 mL
                                                                    811 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 22 cmH2O
   SpO2: 98%
   ABG: 7.52/36/86.[**Numeric Identifier 143**]/27/5
   Ve: 9.7 L/min
   PaO2 / FiO2: 174
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL, left pupil sluggish but responsive
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: right side, Rhonchorous: on right side)
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Not assessed,
   No(t) Sedated, Tone: Not assessed
   Labs / Radiology
   163 K/uL
   9.0 g/dL
   200 mg/dL
   2.1 mg/dL
   27 mEq/L
   3.3 mEq/L
   52 mg/dL
   122 mEq/L
   157 mEq/L
   26.9 %
   8.5 K/uL
        [image002.jpg]
                             [**2135-9-25**]  06:33 AM
                             [**2135-9-25**]  09:06 AM
                             [**2135-9-25**]  05:30 PM
                             [**2135-9-26**]  04:20 AM
                             [**2135-9-26**]  04:35 AM
                             [**2135-9-26**]  06:09 PM
                             [**2135-9-26**]  10:27 PM
                             [**2135-9-27**]  01:44 AM
                             [**2135-9-27**]  02:38 AM
                             [**2135-9-27**]  03:01 AM
   WBC
   7.8
   6.0
   7.0
   8.5
   Hct
   23.2
   20.9
   27.2
   26.8
   26.9
   Plt
   120
   126
   136
   163
   Cr
   2.3
   2.2
   2.1
   TCO2
   25
   29
   29
   29
   30
   Glucose
   195
   246
   200
   Other labs: PT / PTT / INR:25.9/53.7/2.6, CK / CKMB /
   Troponin-T:154/13/0.07, ALT / AST:134/102, Alk Phos / T Bili:179/1.2,
   Fibrinogen:300 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.9 g/dL, LDH:407
   IU/L, Ca++:8.6 mg/dL, Mg++:2.6 mg/dL, PO4:1.2 mg/dL
   Fluid analysis / Other labs: LFTs trending down
   CK trending down
   Retic 0.6
   Hapto 110
   FDP 10-40
   Iron: 39
   calTIBC: 186
   Ferritn: 616
   TRF: 143
   Triglyc: 84
   Imaging: CXR with worsening on left side
   Microbiology: [**2135-9-26**] Sputum cx: 3+  GRAM POSITIVE COCCI. IN PAIRS AND
   CLUSTERS
   [**9-26**]: blood culture: pending
   [**2135-9-24**]: sputum with strep pneumo and klebsiella
   Assessment and Plan
   Patient is am 82 y/o M with history of atrial fibrillation and AVR on
   coumadin, s/p Pacemaker, diastolic CHF, admitted after fall with SDH
   and is now s/p neurosurgery evacuation ([**9-19**]) for bleed with hernation,
   course complicated by diastolic CHF exacerbation, and now with strep
   pneumonia
    Respiratory failure: Initially intubated for [**Doctor First Name 213**] [**9-19**], extubated
   [**9-20**]. ReIntubated [**9-24**] after 1 day on bipap for increased work of
   breathing and airway protection in setting of pulmonary edema and
   pneumonia. Etiology of resp failure is infectious and cardiogenic.
   Patient is still alkalotic, is overbreathing the vent. PAtient had
   episode of hypoxia yesterday and PEEP was increased to 10.
   - currently on AC 50%/ 500/ 14/ 8
 will try to wean PEEP and bring
   down TV as tolerated
   - no currently on sedation, not responsive to command
   -  CK normal, triglycerides normal on propofol. LFTs elevated.
   Pneumonia/Fever: Patient spiked fever to 102.2 overnight, was hypoxia,
   worsening on CXR. Abx coverage broadended to cover pseduomonas and
   MRSA. Patient with purulent sputum, culture from 9.22 grew 4+ Strep
   pneumo and sparse klebsiella. Fever likely secondary to Hospital
   Acquired pneumonia
   - restart Vancomycin (day 1: [**9-24**])
   - change Ceftriaxone 1gm daily to cefepine
   - resend blood cultures today
   - f/u repeat sputum culture.
   Subdural hemorrhage/ SEizure: s/p Craniotomy and evacuation [**9-19**], done
   emergently. had unequal pupils [**2-24**] and had stat Head CT showing no
   inrval change. [**9-26**] and [**9-27**] AM, had seizure like activity of the left
   arm.
   - continue dilantin ppx
   - will need repeat head CT 2 weeks after [**Doctor First Name 213**]
   - per neurosurg, he is expected to regain some mental status, was able
   to follow commands prior to iintubation, but overall prognosis is poor.
   - f/u EEG to check for seizure activity
   - order f/u head Ct for change in setting of seizure.
   - neurosurg aware of seizure.
   Anemia: unclear etiology. Patient is hypercoaguable, s/p fall. Not
   bleeding in brain, may have spontaneous RP bleed. Hct went from 23 ->
   20 on Sunday, responded to 2 units pRBCs. Patient also has underlying
   myeloid metaplasia. Has been stable since transfusion
   -  continue to check [**Hospital1 7**] Hcts
   - hemolysis labs: negative
   - DIC labs: negative
   - iron studies: iron deficient but TIBC is low
   - will consider abd imaging if Hct continues to fall, but is currently
   stable
   AVR/Coagulpathy: patient with AVR with [**Hospital3 1974**] valve. needs to be
   anticoagulated. Warfarin has been held since admission. Pt recieved 3
   units [**Hospital3 **] on admission. on [**9-25**] patient had INR 3.8 adn revieved a
   total of 4 units [**Month/Year (2) **]. and INR now down to 2.8. etiology of new
   coagulopathy unclear, but may be that intial [**Name (NI) **] wore off. is also
   likely vitamin K deficient.  PTT and PT are elvated. [**Month (only) 51**] be from
   abnormal liver function.
   - will continue to monitor INR for now, is trending down slowly
   - discontinue heparin SC for now
   - will hold off on restarting warfarin and coumadin, will discuss with
   neurosurg
   Altered mental status:  Patient unresponsive off sedation.  Etiology is
   likely multifactorial: subdural, hypernatremia, uremia, and infection.
   will discuss with neurosurgery to assess trend of his exam over
   hospital course.
   Hypernatremia: has been trending up, likely contributing to mental
   status
   - increase free water boluses from 200q6 to 300q4.
   - D5 125cc/hour for 1 Liter
   Diastolic heart failure: EF >60% ([**3-12**]). Patient was on lasix drip. on
   torsemide 20mg daily at home. currently looks euvolemic. JVP is
   diffucult to assess
   - Goal I/O negative. looks euvolemic today, will hold diuresis unless
   is positive
   Transaminitis: unlikely from propofol as trigylcerides are normal.
   Shock liver possible, has not been hypotensive here, but may have been
   after fall or prior to admission. [**Month (only) 51**] be septic.
   - will trend LFTs
 now trending down
   - hepatitis panel
   - f/u  right upper quad u/s
   CKD: baseline creatinine is 2.3-2.8. currently 2.2
   - renally dose meds
   Hypertension: not will controlled, BP ranges from 110-150 systolic.
   - increase Hydralazine to 37.5mg TID
   - Isosorbide mononitrate 20 PO BID
   - metoprolol 25mg [**Hospital1 7**]
   Atrial fibrillation:
   Amiodarone 200 [**Hospital1 7**]
   Hypothyroidism
   - Switch IV levothyroxine to home dose of 75mcg PO levothyroxine
   HYperlipidemia: discontinue statin in setting of liver damage.
   BPH: holding  tamsulosin and finastride, as they are not crushable
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2135-9-19**] 10:14 AM
   20 Gauge - [**2135-9-25**] 04:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2135-09-28 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2135-9-27**] 08:00 AM
 ULTRASOUND - At [**2135-9-27**] 08:50 AM
   LIver/Gall Bldr
 URINE CULTURE - At [**2135-9-27**] 08:50 AM
   UA sent
 EEG - At [**2135-9-27**] 04:15 PM
   - RUQ ultrasound completed, consistent with hepatic congestion.
   - Hydralazine increased, statin stopped.
   - Hepatitis C negative. Hepatitis A (+), Hep B surface antigen (+),
   surface antibody and core (-).
   - Sodium trending downward with free water boluses.
   - Neurosurgery commented on prognosis: patient expected to be able to
   follow commands, was answering yes and no post-surgery and following
   some commands.
   - EEG and head CT ordered--CT demonstrated no change (prelim read) and
   EEG being completed for 24 hrs.
   - Family in to visit, wife understands that prognosis is guarded, feels
   patient may not want aggressive care, but continuing to discuss with
   other family members.
   Allergies:
   Procainamide
   Arthralgia/Arth
   Morphine
   Confusion/Delir
   Last dose of Antibiotics:
   Cefipime - [**2135-9-28**] 03:21 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2135-9-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-9-28**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.4
C (97.5
   HR: 60 (60 - 60) bpm
   BP: 112/53(71) {105/47(65) - 143/70(91)} mmHg
   RR: 18 (7 - 28) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
   Wgt (current): 94.7 kg (admission): 68 kg
   Height: 70 Inch
             Total In:
                                                                  4,733 mL
                                                                  1,275 mL
   PO:
             TF:
                                                                     94 mL
                                                                    386 mL
   IVF:
                                                                  2,449 mL
                                                                    289 mL
   Blood products:
   Total out:
                                                                  1,205 mL
                                                                    305 mL
   Urine:
                                                                  1,205 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,528 mL
                                                                    970 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 10
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 132
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: 7.50/36/147/25/5
   Ve: 10.9 L/min
   PaO2 / FiO2: 367
   Physical Examination
   General Appearance: Well nourished, unresponsive
   Eyes / Conjunctiva: PERRL, pupils now equal and reactive
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: nl S1s1, no g/r/m
   Respiratory / Chest: rhonchorus on right side >L
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Not attentive. Not following commands. Retracts to noxious
   stimuli on lower extremities. Not moving right hand. Left hand,
   occasional spontaneous movement.
   Labs / Radiology
   161 K/uL
   8.2 g/dL
   235 mg/dL
   2.0 mg/dL
   25 mEq/L
   3.8 mEq/L
   50 mg/dL
   112 mEq/L
   144 mEq/L
   24.4 %
   8.0 K/uL
        [image002.jpg]
                             [**2135-9-26**]  06:09 PM
                             [**2135-9-26**]  10:27 PM
                             [**2135-9-27**]  01:44 AM
                             [**2135-9-27**]  02:38 AM
                             [**2135-9-27**]  03:01 AM
                             [**2135-9-27**]  07:44 AM
                             [**2135-9-27**]  09:56 AM
                             [**2135-9-27**]  12:16 PM
                             [**2135-9-27**]  05:42 PM
                             [**2135-9-28**]  03:43 AM
   WBC
   8.5
   8.6
   8.0
   Hct
   26.8
   26.9
   24.6
   24.4
   Plt
   163
   156
   161
   Cr
   2.1
   2.1
   2.1
   2.0
   TCO2
   29
   29
   30
   30
   29
   Glucose
   200
   200
   145
   235
   Other labs: PT / PTT / INR:26.3/49.1/2.6, CK / CKMB /
   Troponin-T:154/13/0.07, ALT / AST:90/58, Alk Phos / T Bili:139/0.9,
   Differential-Neuts:91.0 %, Lymph:6.5 %, Mono:0.8 %, Eos:1.6 %,
   Fibrinogen:300 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.5 g/dL, LDH:407
   IU/L, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: - Hct slowly drifting down
   - LFTs trending down
   -Albumin low
   - TSH 0.084 -- was on higher dose of levothyroxine prior to transfer
   - phenytoin 15.5
   Imaging: [**2135-9-27**]: CT head: IMPRESSION: No significant change in size or
   appearance of the subdural or intraparenchymal hemorrhages.
   [**2135-9-27**]: U/s liver: Prominent hepatic venous vasculature suggestive of
   passive
   hepatic congestion.
   Microbiology: [**9-26**] gram stain 3+ gram + cocci. culture pending
   Assessment and Plan
   Patient is am 82 y/o M with history of atrial fibrillation and AVR on
   coumadin, s/p Pacemaker, diastolic CHF, admitted after fall with SDH
   and is now s/p neurosurgery evacuation ([**9-19**]) for bleed with hernation,
   course complicated by diastolic CHF exacerbation, and now with strep
   pneumonia
    Respiratory failure: Initially intubated for [**Doctor First Name 213**] [**9-19**], extubated
   [**9-20**]. ReIntubated [**9-24**] after 1 day on bipap for increased work of
   breathing and airway protection in setting of pulmonary edema and
   pneumonia. Etiology of resp failure is infectious and cardiogenic.
   Patient is mildly alkalotic, is overbreathing the vent.
   - currently on AC 50%/ 500/ 14/ 5
 decreased PEEP this AM, will
   decrease TV as tolerated.
   - no currently on sedation, not responsive to command
   Pneumonia/Fever: Patient febrile to 102 today.Patient with purulent
   sputum, culture from 9.22 grew 4+ Strep pneumo and sparse klebsiella.
   Fever likely secondary to Hospital Acquired pneumonia
   - resent blood, urine and sputum cultures.
   - Vancomycin (day 1: [**9-24**])
   - cefepime (day 1 [**9-27**])
   - will continue abx pending cultures
   - will resite a-line if his blood cultures are positive.
   Subdural hemorrhage/ SEizure: s/p Craniotomy and evacuation [**9-19**], done
   emergently. had unequal pupils [**2-24**] and had stat Head CT showing no
   inrval change. [**9-26**] and [**9-27**] AM, had seizure like activity of the left
   arm.
   - decrease dilantin to 100 daily because levels are persistently high.
   Will check levels qAM
   - per neurosurg, he is expected to regain some mental status, was able
   to follow commands prior to intubation, but overall prognosis is poor.
   - f/u EEG to check for seizure activity
 prelim: no epileptiform
   activity.
   - head CT with no change in setting of ? seizure
   Anemia: unclear etiology. Patient with high INR and s/p fall. Not
   bleeding in brain, may have spontaneous RP bleed. Hct went from 23 ->
   20 on [**9-24**] responded to 2 units pRBCs. Patient also has underlying
   myeloid metaplasia. Has been slowly trending down since transfusion
   -  continue to check [**Hospital1 7**] Hcts
   - hemolysis labs, DIC: negative
   - iron studies: iron deficient but TIBC is low
   - will consider abd imaging if Hct continues to fall, but is currently
   stable
   - guaiac stool
   AVR/Coagulpathy: patient with AVR with [**Hospital3 1974**] valve. needs to be
   anticoagulated. Warfarin been held since admission. Pt recieved 3 units
   [**Hospital3 **] on admission. on [**9-25**] patient had INR 3.8 adn revieved a total of 4
   units [**Month/Year (2) **]. and INR now down to 2.6. etiology of new coagulopathy
   unclear, but may be that intial [**Name (NI) **] wore off. likely from abnormal
   liver function.
   - will continue to monitor INR for now, is trending down slowly
   - discontinue heparin SC for now
   - will hold off on restarting warfarin, will discuss with neurosurg
   Altered mental status:  Patient unresponsive off sedation.  Etiology is
   likely multifactorial: subdural, hypernatremia, uremia, and infection.
   Per neurology, was following commands prior to intubation
   Hypernatremia: resolving, likely contributing to mental status
   - continue free water boluses from 300ccq4.
   Transaminitis: Resolving. u/s showing congestion, likely etiology.
   Previous shock liver
   - will trend LFTs
 now trending down
   - hepatitis panel normal
   -  right upper quad u/s: hepatic congestion
   Diastolic heart failure: EF >60% ([**3-12**]). Patient was on lasix drip. on
   torsemide 20mg daily at home. currently looks euvolemic. JVP is
   diffucult to assess
   - Goal I/O negative. looks euvolemic today, will hold diuresis unless
   is positive
   CKD: baseline creatinine is 2.3-2.8. currently 2.1
   - renally dose meds
   Hypertension: now better controlled, BP ranges from 110-150 systolic.
   - continue  Hydralazine to 37.5mg TID
   - Isosorbide mononitrate 20 PO BID
   - metoprolol 25mg [**Hospital1 7**]
   Atrial fibrillation:
   Amiodarone 200 [**Hospital1 7**]
   Hypothyroidism: TSH low, 0.08
   - continue home dose of 75mcg PO levothyroxine
   HYperlipidemia: discontinue statin in setting of liver damage.
   BPH: holding  tamsulosin and finastride, as they are not crushable
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2135-9-27**] 08:53 PM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2135-9-19**] 10:14 AM
   20 Gauge - [**2135-9-25**] 04:30 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  PPI
   VAP:  chlorhexadine , HOB >30
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2135-09-28 12:44:00 Physician Attending Progress Note
Chief Complaint: intracranial hemorrhage
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   82 y/o M w/afib, s/p AVR, diastolic CHF, admitted with bilateral
   subdural hematoma and intraparenchymal bleed s/p fall now one week s/p
   evacuation, course complicated by reintubation.
   24 Hour Events:
 BLOOD CULTURED - At [**2135-9-27**] 08:00 AM
 ULTRASOUND - At [**2135-9-27**] 08:50 AM
   LIver/Gall Bldr
 URINE CULTURE - At [**2135-9-27**] 08:50 AM
   UA sent
 EEG - At [**2135-9-27**] 04:15 PM
   Head CT yesterday unchanged.  EEG without epileptiform activity.
   Allergies:
   Procainamide
   Arthralgia/Arth
   Morphine
   Confusion/Delir
   Last dose of Antibiotics:
   Cefipime - [**2135-9-28**] 03:21 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2135-9-28**] 08:00 AM
   Other medications:
   peridex, multivitamin, folate, colace, atrovent, dilantin 100 [**Hospital1 **] (pm
   dose held last night, but given dose this AM), allopurinol, insulin
   sliding scale, lopressor, amiodarone, levothyroxine, isosorbide
   mononitrate, vancomycin, hydral
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-9-28**] 12:44 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 60 (60 - 68) bpm
   BP: 121/53(72) {105/47(65) - 143/70(91)} mmHg
   RR: 7 (7 - 31) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
   Wgt (current): 94.7 kg (admission): 68 kg
   Height: 70 Inch
             Total In:
                                                                  4,733 mL
                                                                  1,953 mL
   PO:
             TF:
                                                                     94 mL
                                                                    684 mL
   IVF:
                                                                  2,449 mL
                                                                    289 mL
   Blood products:
   Total out:
                                                                  1,205 mL
                                                                    475 mL
   Urine:
                                                                  1,205 mL
                                                                    475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,528 mL
                                                                  1,478 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 132
   PIP: 28 cmH2O
   SpO2: 98%
   ABG: 7.48/36/94
   Ve: 15.3 L/min
   PaO2 / FiO2: 235
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (Murmur: Systolic), III/VI SEM at RUSB,
   mechanical S2
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   R base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, 2+ RUE edema, 1+ LUE edema
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Purposeful, Tone:
   Not assessed
   Labs / Radiology
   8.2 g/dL
   161 K/uL
   235 mg/dL
   2.0 mg/dL
   25 mEq/L
   3.8 mEq/L
   50 mg/dL
   112 mEq/L
   144 mEq/L
   24.4 %
   8.0 K/uL
        [image002.jpg]
                             [**2135-9-26**]  10:27 PM
                             [**2135-9-27**]  01:44 AM
                             [**2135-9-27**]  02:38 AM
                             [**2135-9-27**]  03:01 AM
                             [**2135-9-27**]  07:44 AM
                             [**2135-9-27**]  09:56 AM
                             [**2135-9-27**]  12:16 PM
                             [**2135-9-27**]  05:42 PM
                             [**2135-9-28**]  03:43 AM
                             [**2135-9-28**]  09:11 AM
   WBC
   8.5
   8.6
   8.0
   Hct
   26.9
   24.6
   24.4
   Plt
   163
   156
   161
   Cr
   2.1
   2.1
   2.1
   2.0
   TCO2
   29
   29
   30
   30
   29
   28
   Glucose
   200
   200
   145
   235
   Other labs: PT / PTT / INR:26.3/49.1/2.6, CK / CKMB /
   Troponin-T:154/13/0.07, ALT / AST:90/58, Alk Phos / T Bili:139/0.9,
   Differential-Neuts:91.0 %, Lymph:6.5 %, Mono:0.8 %, Eos:1.6 %,
   Fibrinogen:300 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.5 g/dL, LDH:407
   IU/L, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: LFTs trending down
   TSH 0.084
   Dilantin level 15 today
   Imaging: CXR: RML/RLL infiltrate, opacified left hemidiaphragm (new)
   Microbiology: Sputum cx with 3+ GPCs, speciation pending
   Assessment and Plan
   A/P:  82 y/o M w/afib, s/p AVR, diastolic CHF, admitted with bilateral
   subdural hematoma and intraparenchymal bleed s/p fall now one week s/p
   evacuation, course complicated by reintubation.
   1.  Respiratory failure: Likely due to VAP.
   - treating with vanco and cefepime
   - attempt PSV although not ready for extubation given his mental status
   2. Subdural hematoma: s/p craniotomy and evacuation.  Head CTs have
   been stable despite what effectively is systemic anticoagulation
   (elevated INR and PTT).
    - hold dilantin given elevated level
   - EEG prelim negative
   3. Diastolic CHF: s/p multiple admissions for this in past.  Appears
   relatively euvolemic and pulmonary infiltrates likely
   pneumonia/aspiration as opposed to CHF.
   - cont metoprolol
   4. s/p AVR:  Not on anticoagulation due to subdural, but PT & PTT both
   elevated today.  Continue to hold anticoagulation for now.
   5. Coagulopathy:  Both INR and PTT are elevated, despite having been
   given multiple units of FFP during his hospital course.  DIC panel
   negative with normal fibrinogen and FDP.  Held SQ heparin although
   unlikely that he is systemically absorbing this.
   - DIC panel negative
   - restart SQ heparin
   6. Anemia:  Hct now stable.  Anemia labs c/w ACD, has hx of abnl bone
   marrow biopsy.  Hemolysis labs negative.
   7. CKD: baseline creatinine is 2.3-2.8. currently 2.0.  BUN higher than
   baseline, likely due to diuresis, now trending down.
   - renally dose meds
   8. Hypertension: Given bleed, goal SBP <160
   - hydralazine 37.5 mg TID
   - Imdur 20 [**Hospital1 **]
   - metoprolol 25mg [**Hospital1 7**]
   9. Atrial fibrillation:  Amiodarone 200 [**Hospital1 7**]
   10. Hypothyroidism:  On levothyroxine.
   - TSH suppressed, check free T4
   11. Altered mental status:  Is unresponsive off of sedation.  Likely
   due to subdural as well as supratherapeutic dilantin.  EEG without
   active seizure activity.
   - holding dilantin
   12. Hyperlipidemia: continue statin
   13. Hypernatremia: Resolved.  Continue free water.
   14. Elevated LFTs: Now slightly improved.  Unclear etiology; no clear
   medications that should be causing this other than amiodarone but has
   been on this for quite some time and statin.
   - RUQ u/s unremarkable
   - hepatitis serologies negative
   - d/c statin
   15. Fevers:  Only source is VAP but is being treated for that.  Will
   repeat cultures.  [**Month (only) 51**] be due to intracranial bleed.  Only indwelling
   line is a-line which is unlikely to be infected & blood cx negative.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2135-9-27**] 08:53 PM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2135-9-19**] 10:14 AM
   20 Gauge - [**2135-9-25**] 04:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent:

2135-09-29 07:37:00 Physician Resident Progress Note
Chief Complaint:
   Overnight events:
   - PS trial with ABG more alkalotic: 7.52/34/67/29 on PS 15/5 FiO2 40%
   so back on AC 450x12x5, repeat ABG: 7.51/35/114/29
   - EEG prelim negative
   - Daughter #2 in tomorrow for meeting in the PM
   Allergies:
   Procainamide
   Arthralgia/Arth
   Morphine
   Confusion/Delir
   Last dose of Antibiotics:
   Cefipime - [**2135-9-29**] 04:08 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2135-9-28**] 08:00 AM
   Other medications:
   Flowsheet Data as of [**2135-9-29**] 07:34 AM
   Vital Signs
   Hemodynamic monitoring
   Fluid Balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 37.1
C (98.8
   HR: 62 (60 - 68) bpm
   BP: 121/55(75) {100/46(60) - 139/70(91)} mmHg
   RR: 23 (12 - 34) insp/min
   SpO2: 94%
   Heart rhythm: V Paced
   Wgt (current): 94.7 kg (admission): 68 kg
   Height: 70 Inch
             Total In:
                                                                  3,768 mL
                                                                  1,158 mL
   PO:
             TF:
                                                                  1,379 mL
                                                                    435 mL
   IVF:
                                                                    379 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                  1,325 mL
                                                                    460 mL
   Urine:
                                                                  1,325 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,443 mL
                                                                    698 mL
   Respiratory
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   Vt (Spontaneous): 377 (377 - 446) mL
   PS : 0 cmH2O
   RR (Set): 12
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   SpO2: 94%
   ABG: 7.51/35/114/26/5
   Ve: 14.1 L/min
   PaO2 / FiO2: 285
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   181 K/uL
   7.9 g/dL
   165 mg/dL
   2.2 mg/dL
   55 mg/dL
   26 mEq/L
   110 mEq/L
   4.2 mEq/L
   143 mEq/L
   23.6 %
   9.2 K/uL
        [image002.jpg]
                                  [**2133-1-5**]
                          2:33 A9/23/[**2135**]  03:01 AM
                                  [**2133-1-9**]
                         10:20 P9/23/[**2135**]  07:44 AM
                                  [**2133-1-10**]
                          1:20 P9/23/[**2135**]  09:56 AM
                                  [**2133-1-11**]
                         11:50 P9/23/[**2135**]  12:16 PM
                                  [**2133-1-12**]
                          1:20 A9/23/[**2135**]  05:42 PM
                                  [**2133-1-13**]
                          7:20 P9/24/[**2135**]  03:43 AM
                                  1//11/006
                          1:23 P9/24/[**2135**]  09:11 AM
                                  [**2133-2-5**]
                          1:20 P9/24/[**2135**]  10:23 PM
                                  [**2133-2-5**]
                         11:20 P9/25/[**2135**]  01:00 AM
                                  [**2133-2-5**]
                          4:20 P9/25/[**2135**]  03:51 AM
   WBC
                                     8.6
                                     8.0
                                     9.2
   Hct
                                    24.6
                                    24.4
                                    23.6
   Plt
                                     156
                                     161
                                     181
   Cr
                                     2.1
                                     2.1
                                     2.0
                                     2.2
   TC02
                                     30
                                     30
                                     29
                                     28
                                     29
                                     29
   Glucose
                                     200
                                     145
                                     235
                                     165
   Other labs: PT / PTT / INR:28.2/43.3/2.8, CK / CKMB /
   Troponin-T:154/13/0.07, ALT / AST:75/54, Alk Phos / T Bili:139/0.9,
   Differential-Neuts:91.0 %, Lymph:6.5 %, Mono:0.8 %, Eos:1.6 %,
   Fibrinogen:300 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.4 g/dL, LDH:335
   IU/L, Ca++:7.8 mg/dL, Mg++:2.9 mg/dL, PO4:2.9 mg/dL
   Fluid analysis / Other labs: Hct trending down
   White count up
   INR up to 2.8 (from 2.6 yesterday)
   LFTs trending down
   Imaging: [**2135-9-28**] EEG: IMPRESSION: This is a mildly abnormal 24-hour
   video EEG telemetry in
   the waking and sleeping states due to the mildly slow and disorganized
   background rhythm of approximately 7 Hz rarely achieving an 8 Hz normal
   background rhythm. This is suggestive of a mild encephalopathy which
   may be seen with medication effect, toxic metabolic abnormalities, or
   infections. There were no regions of focal slowing, no epileptiform
   discharges, and no electrographic seizures noted. There were no
   pushbutton activations.
   Microbiology: [**2135-9-26**] Sputum culture: Coag + staph
   [**2135-9-28**] sputum gram stain 4+ gram + cocci in pairs and clusters
   all blood cultures negative to date
   Assessment and Plan
   Patient is am 82 y/o M with history of atrial fibrillation and AVR on
   coumadin, s/p Pacemaker, diastolic CHF, admitted after fall with SDH
   and is now s/p neurosurgery evacuation ([**9-19**]) for bleed with hernation,
   course complicated by diastolic CHF exacerbation, and now with VAP
   Respiratory failure: Initially intubated for [**Doctor First Name 213**] [**9-19**], extubated [**9-20**].
   ReIntubated [**9-24**] after 1 day on bipap for increased work of breathing
   and airway protection in setting of pulmonary edema and pneumonia.
   Etiology of resp failure is infectious and cardiogenic. Patient is
   mildly alkalotic, is overbreathing the vent.
   - PSV trial yesterday, patient failed, became more alkalotic, so
   currently on AC 50%/ 450/ 14/ 5, will keep this for now since
   unresponsive
   - patient overbreathing vent, likely will remain slightly alkalotic
   because of neurologic tachypnea
   - no currently on sedation, not responsive to command
   Pneumonia/Fever: Patient febrile to [**Age over 90 1287**] yesterday. Culture from [**9-24**]
   grew 4+ Strep pneumo and sparse klebsiella. [**9-26**] sputum growing coag
   positive staph, sensitivities pending. [**9-28**] sputum cx also gram stain
   gram + cocci
   - followup all blood, urine and sputum cultures.
   - Vancomycin (day 1: [**9-24**])
   - cefepime (day 1 [**9-27**])
   - will continue abx pending cultures
   - will resite a-line if his blood cultures are positive.
   Subdural hemorrhage: s/p Craniotomy and evacuation [**9-19**], done
   emergently. [**9-26**] and [**9-27**] AM, had seizure like activity of the left
   arm, head CT unchanged. [**9-24**] sluggish  pupil, CT unchanged
   - hold  dilantin for now. Will check levels qAM, levels very high given
   low albumin
   - per neurosurg, he is expected to regain some mental status, was able
   to follow commands prior to intubation, but overall prognosis is poor.
   - EEG: no epileptiform activity, but mildly abnormal, see above
   Anemia: unclear etiology. Patient with high INR and s/p fall. Not
   bleeding in brain, may have spontaneous RP bleed. Hct went from 23 ->
   20 on [**9-24**] responded to 2 units pRBCs. Patient also has underlying
   myeloid metaplasia. Has been slowly trending down since transfusion
   -  continue to check Hcts daily
   - hemolysis labs, DIC: negative
   - iron studies: iron deficient but TIBC is low
   - will consider abd imaging if Hct continues to fall, but is currently
   stable
   - guaiac stool
   AVR/Coagulpathy: patient with AVR with [**Hospital3 1974**] valve. needs to be
   anticoagulated. Warfarin been held since admission. Pt recieved 3 units
   [**Hospital3 **] on admission. on [**9-25**] patient had INR 3.8 adn revieved a total of 4
   units [**Month/Year (2) **]. and INR now down to 2.6. etiology of new coagulopathy
   unclear, but may be that intial [**Name (NI) **] wore off. likely from abnormal
   liver function.
   - will continue to monitor INR for now, is trending down slowly
   - will hold off on restarting warfarin, will discuss with neurosurg
   Altered mental status:  Patient unresponsive off sedation.  Etiology is
   likely multifactorial: subdural, hypernatremia (resolved), uremia, and
   infection. Per neurology, was following commands prior to intubation
   Hypernatremia: resolving, likely contributing to mental status
   - continue free water boluses from 300ccq4.
   Transaminitis: Resolving. u/s showing congestion, likely etiology.
   Previous shock liver, hepatitis panel normal
   - will trend LFTs
 now trending down
   - right upper quad u/s: hepatic congestion
   Diastolic heart failure: EF >60% ([**3-12**]). Patient was on lasix drip. on
   torsemide 20mg daily at home. currently looks euvolemic. JVP is
   diffucult to assess
   - Goal I/O negative. looks euvolemic today, will hold diuresis unless
   is positive
   CKD: baseline creatinine is 2.3-2.8. currently 2.1
   - renally dose meds
   Hypertension: now better controlled, BP ranges from 110-130 systolic.
   - continue  Hydralazine to 37.5mg TID
   - Isosorbide mononitrate 20 PO BID
   - metoprolol 25mg [**Hospital1 7**]
   Atrial fibrillation:
   Amiodarone 200 [**Hospital1 7**]
   Hypothyroidism: TSH low, 0.08
   - continue home dose of 75mcg PO levothyroxine
   HYperlipidemia: discontinue statin in setting of liver damage.
   BPH: holding  tamsulosin and finastride, as they are not crushable
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2135-9-28**] 03:48 PM 60 mL/hour
   Glycemic Control:  insulin sliding scale
   Lines:
   Arterial Line - [**2135-9-19**] 10:14 AM
   20 Gauge - [**2135-9-25**] 04:30 PM
   18 Gauge - [**2135-9-28**] 12:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: famotadine
   VAP:  HOB >30, chlorhexadine
   Comments:
   Communication:  Comments: Family meeting today at 1pm
   Code status: DNR (do not resuscitate)
   Disposition:

2135-09-30 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Family meeting. Want to see if he becomes more interactive by Monday,
   and will then reassess.They do not want any significant escalation of
   care (ie: pressors, central line). Remains DNR. Should he worsen,
   likely CMO, but will need to readdress
   -  moved ET tube and NG tube down
   - corrected phenytoin level 19.4
   Allergies:
   Procainamide
   Arthralgia/Arth
   Morphine
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2135-9-29**] 08:00 AM
   Cefipime - [**2135-9-30**] 04:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2135-9-29**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-9-30**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.3
C (99.2
   HR: 60 (60 - 61) bpm
   BP: 123/56(76) {99/42(58) - 136/63(85)} mmHg
   RR: 32 (15 - 34) insp/min
   SpO2: 93%
   Heart rhythm: V Paced
   Wgt (current): 94.7 kg (admission): 68 kg
   Height: 70 Inch
             Total In:
                                                                  3,932 mL
                                                                  1,291 mL
   PO:
             TF:
                                                                  1,442 mL
                                                                    446 mL
   IVF:
                                                                    490 mL
                                                                    124 mL
   Blood products:
   Total out:
                                                                  1,655 mL
                                                                    640 mL
   Urine:
                                                                  1,655 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,277 mL
                                                                    652 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   Compliance: 26.5 cmH2O/mL
   SpO2: 93%
   ABG: 7.50/36/78.[**Numeric Identifier 181**]/26/4
   Ve: 10 L/min
   PaO2 / FiO2: 197
   Physical Examination
   General Appearance: Well nourished, unresponsive
   Eyes / Conjunctiva: PERRL, pupils now equal and reactive
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: nl S1s1, no g/r/m
   Respiratory / Chest: rhonchorus on right side >L
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Not attentive. Not following commands. Retracts to noxious
   stimuli on lower extremities. Not moving right hand. Left hand,
   occasional spontaneous movement.
   Labs / Radiology
   180 K/uL
   7.6 g/dL
   187 mg/dL
   1.9 mg/dL
   26 mEq/L
   4.3 mEq/L
   52 mg/dL
   110 mEq/L
   142 mEq/L
   22.6 %
   8.0 K/uL
                             [**2135-9-27**]  09:56 AM
                             [**2135-9-27**]  12:16 PM
                             [**2135-9-27**]  05:42 PM
                             [**2135-9-28**]  03:43 AM
                             [**2135-9-28**]  09:11 AM
                             [**2135-9-28**]  10:23 PM
                             [**2135-9-29**]  01:00 AM
                             [**2135-9-29**]  03:51 AM
                             [**2135-9-30**]  03:58 AM
                             [**2135-9-30**]  04:11 AM
   WBC
   8.6
   8.0
   9.2
   8.0
   Hct
   24.6
   24.4
   23.6
   22.6
   Plt
   156
   161
   181
   180
   Cr
   2.1
   2.1
   2.0
   2.2
   1.9
   TCO2
   29
   28
   29
   29
   29
   Glucose
   200
   145
   235
   165
   187
   Other labs: PT / PTT / INR:18.8/32.4/1.7, CK / CKMB /
   Troponin-T:154/13/0.07, ALT / AST:55/41, Alk Phos / T Bili:138/0.8,
   Differential-Neuts:91.0 %, Lymph:6.5 %, Mono:0.8 %, Eos:1.6 %,
   Fibrinogen:300 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:333
   IU/L, Ca++:7.6 mg/dL, Mg++:2.7 mg/dL, PO4:2.3 mg/dL
   Corrected dilantin level: 19.4
   Creatinine down to 1.9 from 2.2
   LFTs continue to trend down
   Microbiology:
   [**9-28**] sputum culture: Staph Aureus sensitive to erythromycin, gent,
   levoflox, oxacillin, PCN, bactrim. And Klebsiella pansensitive
   [**2135-9-24**]: Sputum culture: strep pneumo sensitive to levoflox and vanco.
   Pansensitive Klebsiella
   Blood cultures negative
   Assessment and Plan
   Patient is am 82 y/o M with history of atrial fibrillation and AVR on
   coumadin, s/p Pacemaker, diastolic CHF, admitted after fall with SDH
   and is now s/p neurosurgery evacuation ([**9-19**]) for bleed with hernation,
   course complicated by diastolic CHF exacerbation, and now with VAP
   Respiratory failure: Initially intubated for [**Doctor First Name 213**] [**9-19**], extubated [**9-20**].
   ReIntubated [**9-24**] after 1 day on bipap for increased work of breathing
   and airway protection in setting of pulmonary edema and pneumonia.
   Etiology of resp failure is infectious and cardiogenic. Patient is
   mildly alkalotic, is overbreathing the vent.
   - PSV trial yesterday, patient failed, became more alkalotic, so
   currently on AC 50%/ 450/ 14/ 5, will keep this for now since
   unresponsive
   - patient overbreathing vent, likely will remain slightly alkalotic
   because of neurologic tachypnea
   - no currently on sedation, not responsive to command
   Pneumonia/Fever: Patient febrile to [**Age over 90 1287**] yesterday. Culture from [**9-24**]
   grew 4+ Strep pneumo and sparse klebsiella. [**9-26**] sputum growing coag
   positive staph, sensitivities above. [**9-28**] sputum cx also gram stain
   gram + cocci
   - followup all blood, urine and sputum cultures.
   - Vancomycin (day 1: [**9-24**])
   - cefepime (day 1 [**9-27**])
   - will continue abx pending cultures
   - will resite a-line if his blood cultures are positive.
   Subdural hemorrhage: s/p Craniotomy and evacuation [**9-19**], done
   emergently. [**9-26**] and [**9-27**] AM, had seizure like activity of the left
   arm, head CT unchanged. [**9-24**] sluggish  pupil, CT unchanged
   - holding  dilantin and level at more normal range. Will check levels
   qAM, levels very high given low albumin
   - per neurosurg, he is expected to regain some mental status, was able
   to follow commands prior to intubation, but overall prognosis is poor.
   - EEG: no epileptiform activity, but mildly abnormal, see above
   Anemia: unclear etiology. Patient with high INR and s/p fall. Not
   bleeding in brain, may have spontaneous RP bleed. Hct went from 23 ->
   20 on [**9-24**] responded to 2 units pRBCs. Patient also has underlying
   myeloid metaplasia. Has been slowly trending down since transfusion.
   Hct trending down daily
   -  continue to check Hcts daily
   - hemolysis labs, DIC: negative
   - iron studies: iron deficient but TIBC is low
   - will consider abd imaging if Hct continues to fall, but is currently
   stable
   - guaiac stool
   AVR/Coagulpathy: patient with AVR with [**Hospital3 1974**] valve. needs to be
   anticoagulated. Warfarin been held since admission. Pt recieved 3 units
   [**Hospital3 **] on admission. on [**9-25**] patient had INR 3.8 adn revieved a total of 4
   units [**Month/Year (2) **]. and INR now down to 1.7. etiology of new coagulopathy
   unclear, but may be that intial [**Name (NI) **] wore off. likely from abnormal
   liver function.
   - will continue to monitor INR for now, is trending down slowly
   - INR <2, will start coumadin because of AVR, without heparin or bolus
   per previous conversations between cardiology and neurosurgery.
   Altered mental status:  Patient unresponsive off sedation.  Etiology is
   likely multifactorial: subdural, hypernatremia (resolved), uremia, and
   infection. Also high dilantin level as part of AMS . Per neurology, was
   following commands prior to intubation
   Hypernatremia: resolving, likely contributing to mental status
   - decrease free water boluses from 300ccq4 to q6
   Transaminitis: Resolving. u/s showing congestion, likely etiology.
   Previous shock liver, hepatitis panel normal
   - will trend LFTs
 now trending down
   - right upper quad u/s: hepatic congestion
   Diastolic heart failure: EF >60% ([**3-12**]). Patient was on lasix drip. on
   torsemide 20mg daily at home. currently looks euvolemic. JVP is
   diffucult to assess
   - Goal I/O negative. looks euvolemic today, will hold diuresis unless
   is positive
   CKD: baseline creatinine is 2.3-2.8. currently 2.1
   - renally dose meds
   Hypertension: now better controlled, BP ranges from 110-130 systolic.
   - continue  Hydralazine to 37.5mg TID
   - Isosorbide mononitrate 20 PO BID
   - metoprolol 25mg [**Hospital1 7**]
   Atrial fibrillation:
   Amiodarone 200 [**Hospital1 7**]
   Hypothyroidism: TSH low, 0.08
   - continue home dose of 75mcg PO levothyroxine
   HYperlipidemia: discontinue statin in setting of liver damage.
   BPH: holding  tamsulosin and finastride, as they are not crushable
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2135-9-30**] 12:49 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2135-9-19**] 10:14 AM
   20 Gauge - [**2135-9-25**] 04:30 PM
   18 Gauge - [**2135-9-28**] 12:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held: want to see how he does over the
   weekend and then reassess on Monday. No escalation of care at this
   time.
   Code status: DNR (do not resuscitate)
   Disposition:

2135-10-01 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.6
F - [**2135-9-30**] 04:00 PM
   -          Coumadin restarted at 0.5mg qd
   -          Family actively discussing goals of care
   -          Thick secretions from ETT
   -          RN reports pt opened R eye today, otherwise no other neuro
   change
   Allergies:
   Procainamide
   Arthralgia/Arth
   Morphine
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2135-9-29**] 08:00 AM
   Cefipime - [**2135-10-1**] 04:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2135-9-30**] 08:00 AM
   Furosemide (Lasix) - [**2135-9-30**] 10:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-10-1**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.2
C (100.7
   HR: 60 (60 - 62) bpm
   BP: 124/64(82) {107/52(68) - 142/65(88)} mmHg
   RR: 27 (23 - 37) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Wgt (current): 94.7 kg (admission): 68 kg
   Height: 70 Inch
             Total In:
                                                                  4,050 mL
                                                                    558 mL
   PO:
             TF:
                                                                  1,440 mL
                                                                    435 mL
   IVF:
                                                                    290 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                  2,510 mL
                                                                    680 mL
   Urine:
                                                                  2,510 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,540 mL
                                                                   -122 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 160
   PIP: 22 cmH2O
   Plateau: 21 cmH2O
   SpO2: 97%
   ABG: ////
   Ve: 15.1 L/min
   Physical Examination
   Gen: Intubated
   HEENT: PERRL, cranie site c/d/i
   Heart: s1s2 RRR
   Lungs: rhocnhi bilaterally, R>L
   Abd: soft, nt/nd
   Ext: wd/wp
   Neuro: Does not arouse to voice, withdraws to pain in all ext except
   LUE
   Labs / Radiology
   233 K/uL
   7.8 g/dL
   187 mg/dL
   1.9 mg/dL
   26 mEq/L
   4.3 mEq/L
   52 mg/dL
   110 mEq/L
   142 mEq/L
   22.7 %
   9.8 K/uL
        [image002.jpg]
                             [**2135-9-27**]  12:16 PM
                             [**2135-9-27**]  05:42 PM
                             [**2135-9-28**]  03:43 AM
                             [**2135-9-28**]  09:11 AM
                             [**2135-9-28**]  10:23 PM
                             [**2135-9-29**]  01:00 AM
                             [**2135-9-29**]  03:51 AM
                             [**2135-9-30**]  03:58 AM
                             [**2135-9-30**]  04:11 AM
                             [**2135-10-1**]  05:25 AM
   WBC
   8.6
   8.0
   9.2
   8.0
   9.8
   Hct
   24.6
   24.4
   23.6
   22.6
   22.7
   Plt
   156
   161
   181
   180
   233
   Cr
   2.1
   2.1
   2.0
   2.2
   1.9
   TCO2
   28
   29
   29
   29
   Glucose
   200
   145
   235
   165
   187
   Other labs: PT / PTT / INR:14.8/30.6/1.3, CK / CKMB /
   Troponin-T:154/13/0.07, ALT / AST:55/41, Alk Phos / T Bili:138/0.8,
   Differential-Neuts:91.0 %, Lymph:6.5 %, Mono:0.8 %, Eos:1.6 %,
   Fibrinogen:300 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:333
   IU/L, Ca++:7.6 mg/dL, Mg++:2.7 mg/dL, PO4:2.3 mg/dL
   CXR [**10-1**]: worsening R consolidation
   Assessment and Plan
   Assessment and Plan
   Patient is am 82 y/o M with history of atrial fibrillation and AVR on
   coumadin, s/p Pacemaker, diastolic CHF, admitted after fall with SDH
   and is now s/p neurosurgery evacuation ([**9-19**]) for bleed with hernation,
   course complicated by diastolic CHF exacerbation, and now with VAP
   Respiratory failure: Initially intubated for [**Doctor First Name 213**] [**9-19**], extubated [**9-20**].
   ReIntubated [**9-24**] after 1 day on bipap for increased work of breathing
   and airway protection in setting of pulmonary edema and pneumonia.
   Etiology of resp failure is infectious and cardiogenic.
   - patient overbreathing vent, likely will remain slightly alkalotic
   because of neurologic tachypnea
   - failed PSV trial [**9-28**], will stay on AC 50%/ 450/ 14/ 5, will keep
   this for now since unresponsive
   - no currently on sedation, not responsive to command
   - check ABG now: 7.49/36/309
   Pneumonia/Fever: Patients fever curve coming down. Culture from [**9-24**]
   grew 4+ Strep pneumo and sparse klebsiella. [**9-26**] sputum growing MSSA
   and pansensi kelbs.
   - followup all blood, urine and sputum cultures.
   - Vancomycin (day 1: [**9-24**]) continue until 8 day course of cefepime is
   complete
   - cefepime (day 1 [**9-27**])  total 8 day course. Today [**5-12**].
   - will continue abx pending cultures
   - will resite a-line if his blood cultures are positive.
   Subdural hemorrhage: s/p Craniotomy and evacuation [**9-19**], done
   emergently. [**9-26**] and [**9-27**] AM, had seizure like activity of the left
   arm, head CT unchanged. [**9-24**] sluggish  pupil, CT unchanged
   - holding dilantin and level at more normal range. Will check levels
   qAM, levels very high corrected for low albumin
   - EEG: no epileptiform activity, but mildly abnormal
   - Corrected dilantin ~ 15 today, so held dilantin, check level in AM
   and likely dose at that time
   Anemia: Patient also has underlying myeloid metaplasia. Has been slowly
   trending down since transfusion on [**9-24**]. Hct trending down daily, 22.6
   today. Will monitor daily
   -  continue to check Hcts daily
   - hemolysis labs, DIC: negative
   - iron studies: iron deficient but TIBC is low
   - guaiac stool
   - transfuse Hct < 21
   AVR/Coagulpathy: patient with AVR with [**Hospital3 1974**] valve, Warfarin been
   held since admission for INR >2, INR now down to 1.7. persistently high
   INR likely from abnormal liver function or high dilantin levels
   - INR <2, will start coumadin because of AVR, without heparin or bolus
   per previous conversations between cardiology and neurosurgery.
   - goal INR [**2-6**].
   - dose Coumadin 1mg today, check level tomorrow (pt recently
   coagulopathic)
   Diastolic heart failure: EF >60% ([**3-12**]). Patient was on lasix drip. on
   torsemide 20mg daily at home. currently looks euvolemic. JVP is
   diffucult to assess
   - Goal I/O -1L. looks wet today, Lasix 20mg IV, repeat as needed
   Altered mental status:  Patient unresponsive off sedation.  Etiology is
   likely multifactorial: subdural, hypernatremia (resolved), uremia, and
   infection. Also high dilantin level as part of AMS . Per neurology, was
   following commands prior to intubation.
   -          EEG: neg for sz
   -          Dilantin coming down
   -          Infection: being treated
   -          Na: improving
   Hypernatremia: resolving, likely contributing to mental status
   - decrease free water boluses from 300ccq4 to q8 as Na coming into
   normal range
   Transaminitis: Resolving. u/s showing congestion, likely etiology.
   Previous shock liver, hepatitis panel normal
   - will trend LFTs
 now trending down
   - right upper quad u/s: hepatic congestion
   CKD: baseline creatinine is 2.3-2.8. currently 1.9
   - renally dose meds
   Hypertension: now better controlled, BP ranges from 110-130 systolic.
   - continue  Hydralazine to 37.5mg TID
   - Isosorbide mononitrate 20 PO BID
   - metoprolol 25mg [**Hospital1 7**]
   Atrial fibrillation:
   Amiodarone 200 [**Hospital1 7**]
   Hypothyroidism: TSH low, 0.08, T4 5.6 (normal)
   - continue home dose of 75mcg PO levothyroxine
   HYperlipidemia: discontinue statin in setting of liver damage.
   BPH: holding  tamsulosin and finastride, as they are not crushable
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2135-9-30**] 12:49 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2135-9-19**] 10:14 AM
   20 Gauge - [**2135-9-25**] 04:30 PM
   18 Gauge - [**2135-9-28**] 12:00 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held: want to see how he does over the
   weekend and then reassess on Monday. No escalation of care at this
   time.
   Code status: DNR (do not resuscitate)
   Disposition : ICU

2135-10-01 11:39:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 FEVER - 101.6
F - [**2135-9-30**] 04:00 PM
   started to open eyes to command this am
   moving [**3-8**] extremities, not moving L arm, which has been stable exam x
   1 week
   coumadin restarted for AVR ([**First Name8 (NamePattern2) **] [**Male First Name (un) **])
   Allergies:
   Procainamide
   Arthralgia/Arth
   Morphine
   Confusion/Delir
   Last dose of Antibiotics:
   Cefipime - [**2135-10-1**] 04:00 AM
   Vancomycin - [**2135-10-1**] 08:45 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2135-9-30**] 10:10 PM
   Famotidine (Pepcid) - [**2135-10-1**] 08:00 AM
   Other medications:
   amio 200 [**Hospital1 **]
   metop 25 [**Hospital1 **]
   RISS
   Allopurinol 100 qid
   atrovent
   colace
   mvi
   synthroid 75
   pepsid
   isordil
   cefepime
   hydralazine
   vancomycin 1 g q448
   coumadin 0.5 pngt
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-10-1**] 11:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.5
C (99.5
   HR: 60 (60 - 61) bpm
   BP: 133/66(86) {107/51(68) - 150/74(97)} mmHg
   RR: 31 (19 - 37) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.7 kg (admission): 68 kg
   Height: 70 Inch
             Total In:
                                                                  4,050 mL
                                                                  1,016 mL
   PO:
             TF:
                                                                  1,440 mL
                                                                    594 mL
   IVF:
                                                                    290 mL
                                                                    363 mL
   Blood products:
   Total out:
                                                                  2,510 mL
                                                                  1,000 mL
   Urine:
                                                                  2,510 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,540 mL
                                                                     17 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 12
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 160
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   SpO2: 97%
   ABG: ///25/
   Ve: 11.9 L/min
   Physical Examination
   General: intubated, sedated
   HEENT: PERRL, EOMI
   CV: S1/S2
   CHEST: rhonchourous breath sounds, white mucus visible in ETT connector
   ABD: soft, nt, nd
   EXT wwp, 1_ edema
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.8 g/dL
   233 K/uL
   160 mg/dL
   1.9 mg/dL
   25 mEq/L
   4.3 mEq/L
   49 mg/dL
   106 mEq/L
   140 mEq/L
   22.7 %
   9.8 K/uL
        [image002.jpg]
                             [**2135-9-27**]  12:16 PM
                             [**2135-9-27**]  05:42 PM
                             [**2135-9-28**]  03:43 AM
                             [**2135-9-28**]  09:11 AM
                             [**2135-9-28**]  10:23 PM
                             [**2135-9-29**]  01:00 AM
                             [**2135-9-29**]  03:51 AM
                             [**2135-9-30**]  03:58 AM
                             [**2135-9-30**]  04:11 AM
                             [**2135-10-1**]  05:25 AM
   WBC
   8.6
   8.0
   9.2
   8.0
   9.8
   Hct
   24.6
   24.4
   23.6
   22.6
   22.7
   Plt
   156
   161
   181
   180
   233
   Cr
   2.1
   2.1
   2.0
   2.2
   1.9
   1.9
   TCO2
   28
   29
   29
   29
   Glucose
   200
   145
   235
   165
   187
   160
   Other labs: PT / PTT / INR:14.8/30.6/1.3, CK / CKMB /
   Troponin-T:154/13/0.07, ALT / AST:49/42, Alk Phos / T Bili:149/0.8,
   Differential-Neuts:91.0 %, Lymph:6.5 %, Mono:0.8 %, Eos:1.6 %,
   Fibrinogen:300 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:338
   IU/L, Ca++:7.6 mg/dL, Mg++:2.4 mg/dL, PO4:2.4 mg/dL
   Fluid analysis / Other labs: dilantin 8 (corrected was 25)
   vanc trough 9.3
   Assessment and Plan
   Assessment and Plan
   82 y/o M w/afib, s/p AVR, diastolic CHF, admitted with bilateral
   subdural hematoma and intraparenchymal bleed s/p fall now one week s/p
   evacuation, course complicated by reintubation for resp failure/pna.
   Overall course minimally changed. He continues to have marginal MS [**First Name (Titles) **]
[**Last Name (Titles) 2167**]ing aspiration, though vent requirements, BP, HR unchanged.
   1.  Respiratory failure: Likely due to VAP +/- aspiration, cxr with
   increasing infiltrates due to probable ongoing aspiration
   PS attempted, but hypoventilation.  Has not been sedated.  Now
   restarted AC
    - Vanc day 8, trough 9.8 so will increase to q 24
    - cefepime day [**5-12**]
    - if persistent purulent sputum will recheck sputum cx
   2. Persistent fevers: likely [**2-5**] pna, will cont monitor blood cx,
   change lines if + blood cx
   3. Subdural hematoma: s/p craniotomy and evacuation.  Head CTs have
   been stable despite what effectively is systemic anticoagulation
   (elevated INR and PTT).
   - continue to hold dilantin given elevated level although now is near
   therapeutic - goal [**10-24**], now 15, will recheck [**10-3**]
   - EEG w/toxic-metabolic encephalopathy
   3. Diastolic CHF: s/p multiple admissions for this in past.  Appears
   relatively euvolemic and pulmonary infiltrates likely
   pneumonia/aspiration as opposed to CHF.
    - cont metoprolol
   5. Coagulopathy/anticoagulation:  INR and PTT are improving on their
   own.  [**Month (only) 51**] have been due to interaction with dilantin.  Will restart
   coumadin at lower dose than home dose.  INR 1.3.  Will start coumadin 1
   mg tonight and continue to adjustbased on INR, dilantin dose
   6. Anemia:  Hct now stable.  Anemia labs c/w ACD, has hx of abnl bone
   marrow biopsy.  Hemolysis labs negative.  No current indication for
   transfusion.  Will transfuse if symptomatic or hct < 21
   7. CKD: At baseline.
    8. Altered mental status: poor interaction off sedation, unchanged,
   likely multifactorial related to sdh, critical illness
   9. Hyponatremia: Na improving, was getting fwb q 4 h, will change to q
   6 H
   10. transaminitis resolving
   8. Hypertension: Given bleed, goal SBP <160
   - hydralazine 37.5 mg TID
   - Imdur 20 [**Hospital1 **]
   - metoprolol 25mg [**Hospital1 7**]
   9. Atrial fibrillation:  Amiodarone 200 [**Hospital1 7**]
   10. Hypothyroidism:  On levothyroxine.
   - TSH suppressed, check free T4  (TSH was 0.04, T4 was 5.6)
   11. Altered mental status:  Is minimally responsive off of sedation.
   Likely due to subdural.  EEG without active seizure activity.  Mental
   status not improved with lower dilantin level.
   - holding dilantin
   12. Hyperlipidemia: continue statin
   13. Hypernatremia: Resolved.  Continue free water.
   14. Elevated LFTs: Improved, likely [**2-5**] dilantin.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2135-9-19**] 10:14 AM
   20 Gauge - [**2135-9-25**] 04:30 PM
   18 Gauge - [**2135-9-28**] 12:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR (do not resuscitate). Readdress further goals of care
   once all family members present.
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined the patient, and was present for the key portions of
   the services provided. I agree with the note above, including the
   assessment and plan.  In addition, I would add/emphasize:  82 y/o M
   w/afib, s/p AVR, diastolic CHF, admitted with bilateral subdural
   hematoma and intraparenchymal bleed s/p fall one week s/p evacuation,
   course c/b reintubation for resp failure/pna.
   On exam:
   Tmax: 38.7
C (101.6
   Tcurrent: 37.5
C (99.5
   HR: 60 (60 - 61) bpm
   BP: 133/66(86) {107/51(68) - 150/74(97)} mmHg
   RR: 31 (19 - 37) insp/min
   SpO2: 97%
   General: intubated, sedated
   HEENT: PERRL, EOMI
   CV: S1/S2
   CHEST: rhonchi b/l
   ABD: soft, nt, nd
   EXT 1+ edema
   82 y/o w/ bilateral subdural hematoma and intraparenchymal bleed s/p
   fall now one week s/p evacuation, course complicated by reintubation
   for resp failure/pna.  Relatively unchanged.  Cont  marginal MS [**First Name (Titles) **]
[**Last Name (Titles) 2167**]ing aspiration.  However, his vent requirements remain unchanged.
   Resp failure presumed sec Aspiration/VAP with suspected ongoing
   aspiration events.  Conf vanc/cefepime.  Has persistent fevers most
   likely due to PNA though need to cont vigilance for other sources.  Has
   sig diastolic CHF so fluid status key.  Currently resp appears purely
   related PNA/aspiration rather than CHF.  Remainder of plan as outlined
   above.
   Pt is critically ill.
   Time spent on care 45min.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 973**], MD
   on:[**2135-10-2**] 19:33 ------

2135-10-02 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Coumadin 1 mg [**10-1**]
   - Changed free water to 300 q 8
   - CXR: worsened RLL
   - 5 PM ABG: 7.54/33/172/29
   - Dosed Vanco q 24
   - Held Dilantin again as still high when corrected, check level AM [**10-2**]
   and then dose
   - Family coming in Monday to meet and likely extubate
   Allergies:
   Procainamide
   Arthralgia/Arth
   Morphine
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2135-10-1**] 08:45 AM
   Cefipime - [**2135-10-2**] 04:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2135-10-1**] 08:00 AM
   Fentanyl - [**2135-10-2**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-10-2**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.4
C (99.4
   HR: 60 (60 - 66) bpm
   BP: 125/50(73) {114/50(68) - 150/74(98)} mmHg
   RR: 27 (18 - 33) insp/min
   SpO2: 96%
   Heart rhythm: AV Paced
   Wgt (current): 94.7 kg (admission): 68 kg
   Height: 70 Inch
             Total In:
                                                                  2,486 mL
                                                                  1,164 mL
   PO:
             TF:
                                                                  1,446 mL
                                                                    441 mL
   IVF:
                                                                    490 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                  1,490 mL
                                                                    800 mL
   Urine:
                                                                  1,490 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    996 mL
                                                                    364 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 12
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 208
   PIP: 23 cmH2O
   Plateau: 11 cmH2O
   SpO2: 96%
   ABG: 7.48/38/103/25/4
   Ve: 13.8 L/min
   PaO2 / FiO2: 343
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   294 K/uL
   8.1 g/dL
   139 mg/dL
   1.8 mg/dL
   25 mEq/L
   4.4 mEq/L
   46 mg/dL
   106 mEq/L
   138 mEq/L
   24.0 %
   9.6 K/uL
        [image002.jpg]
                             [**2135-9-28**]  10:23 PM
                             [**2135-9-29**]  01:00 AM
                             [**2135-9-29**]  03:51 AM
                             [**2135-9-30**]  03:58 AM
                             [**2135-9-30**]  04:11 AM
                             [**2135-10-1**]  05:25 AM
                             [**2135-10-1**]  12:35 PM
                             [**2135-10-1**]  08:35 PM
                             [**2135-10-2**]  03:03 AM
                             [**2135-10-2**]  03:30 AM
   WBC
   9.2
   8.0
   9.8
   9.6
   Hct
   23.6
   22.6
   22.7
   24.0
   Plt
   181
   180
   233
   294
   Cr
   2.2
   1.9
   1.9
   1.8
   TCO2
   29
   29
   29
   28
   29
   29
   Glucose
   165
   187
   160
   139
   Other labs: PT / PTT / INR:14.2/29.9/1.2, CK / CKMB /
   Troponin-T:154/13/0.07, ALT / AST:53/60, Alk Phos / T Bili:158/0.7,
   Differential-Neuts:91.0 %, Lymph:6.5 %, Mono:0.8 %, Eos:1.6 %,
   Fibrinogen:300 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.3 g/dL, LDH:364
   IU/L, Ca++:7.9 mg/dL, Mg++:2.5 mg/dL, PO4:2.5 mg/dL
   Fluid analysis / Other labs: creatinine coming down 1.8
   LFTs stable
   10.9 corrected dilantin level
   INR 1.2
   Microbiology: 9.24: sputum MSSA and pansensitive Klebsiella
   Assessment and Plan
   Patient is am 82 y/o M with history of atrial fibrillation and AVR on
   coumadin, s/p Pacemaker, diastolic CHF, admitted after fall with SDH
   and is now s/p neurosurgery evacuation ([**9-19**]) for bleed with hernation,
   course complicated by diastolic CHF exacerbation, and now with VAP
   Respiratory failure: Initially intubated for [**Doctor First Name 213**] [**9-19**], extubated [**9-20**].
   ReIntubated [**9-24**] after 1 day on bipap for increased work of breathing
   and airway protection in setting of pulmonary edema and pneumonia.
   Etiology of resp failure is infectious and cardiogenic.
   - patient overbreathing vent, likely will remain slightly alkalotic
   because of neurologic tachypnea
   - failed PSV trial [**9-28**], will stay on AC 50%/ 450/ 14/ 5, will keep
   this for now since unresponsive
   - no currently on sedation, not responsive to command
   - check ABG now: 7.49/36/309
   Pneumonia/Fever: Patients fever curve coming down. Culture from [**9-24**]
   grew 4+ Strep pneumo and sparse klebsiella. [**9-26**] sputum growing MSSA
   and pansensi kelbs.
   - followup all blood, urine and sputum cultures.
   - Vancomycin (day 1: [**9-24**]) continue until 8 day course of cefepime is
   complete
   - cefepime (day 1 [**9-27**])  total 8 day course. Today [**6-12**].
   - will continue abx pending cultures
   - will resite a-line if his blood cultures are positive.
   Subdural hemorrhage: s/p Craniotomy and evacuation [**9-19**], done
   emergently. [**9-26**] and [**9-27**] AM, had seizure like activity of the left
   arm, head CT unchanged. [**9-24**] sluggish  pupil, CT unchanged
   - holding dilantin and level at more normal range. Will check levels
   qAM, levels very high corrected for low albumin
   - EEG: no epileptiform activity, but mildly abnormal
   - Corrected dilantin ~ 10 today, so held dilantin, check level in AM
   and likely dose at that time
   Anemia: Patient also has underlying myeloid metaplasia. Has been slowly
   trending down since transfusion on [**9-24**]. Hct trending down daily, 22.6
   today. Will monitor daily
   -  continue to check Hcts daily
   - hemolysis labs, DIC: negative
   - iron studies: iron deficient but TIBC is low
   - guaiac stool
   - transfuse Hct < 21
   AVR/Coagulpathy: patient with AVR with [**Hospital3 1974**] valve, goal INR [**2-6**]
   continue coumadin because of AVR, without heparin or bolus per previous
   conversations between cardiology and neurosurgery.
   - goal INR [**2-6**].
   - dose Coumadin 1mg today, check level tomorrow (pt recently
   coagulopathic)
   Diastolic heart failure: EF >60% ([**3-12**]). Patient was on lasix drip. on
   torsemide 20mg daily at home. currently looks euvolemic. JVP is
   diffucult to assess
   - Goal I/O -1L. looks wet today, Lasix 20mg IV, repeat as needed
   Altered mental status:  Patient unresponsive off sedation.  Etiology is
   likely multifactorial: subdural, hypernatremia (resolved), uremia, and
   infection. Also high dilantin level as part of AMS . Per neurology, was
   following commands prior to intubation.
   - EEG: neg for sz
   - Dilantin coming down
   -  Infection: being treated
   - Na: improving
   Hypernatremia: resolving, likely contributing to mental status
   - decrease free water boluses from 300ccq4 to q8 as Na coming into
   normal range
   Transaminitis: Resolving. u/s showing congestion, likely etiology.
   Previous shock liver, hepatitis panel normal
   - will trend LFTs
 now trending down
   - right upper quad u/s: hepatic congestion
   CKD: baseline creatinine is 2.3-2.8. currently 1.8
   - renally dose meds
   Hypertension: now better controlled, BP ranges from 110-130 systolic.
   - continue  Hydralazine to 37.5mg TID
   - Isosorbide mononitrate 20 PO BID
   - metoprolol 25mg [**Hospital1 7**]
   Atrial fibrillation:
   Amiodarone 200 [**Hospital1 7**]
   Hypothyroidism: TSH low, 0.08, T4 5.6 (normal)
   - continue home dose of 75mcg PO levothyroxine
   HYperlipidemia: discontinue statin in setting of liver damage.
   BPH: holding  tamsulosin and finastride, as they are not crushable
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2135-10-2**] 02:26 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2135-9-19**] 10:14 AM
   20 Gauge - [**2135-9-25**] 04:30 PM
   18 Gauge - [**2135-9-28**] 12:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin, LMW Heparin, IVC filter(Systemic
   anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2135-10-02 08:43:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   No new events
   Family at bedside, hoping for family meeting [**10-3**]
   Allergies:
   Procainamide
   Arthralgia/Arth
   Morphine
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2135-10-1**] 08:45 AM
   Cefipime - [**2135-10-2**] 04:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2135-10-2**] 03:00 AM
   Famotidine (Pepcid) - [**2135-10-2**] 08:00 AM
   Other medications:
   amiodarone
   metoprolol
   insulin
   allopurinol
   atrovent
   colace
   folic acid
   mvi
   synthroid 75 qday
   pepcid
   isordil 20 [**Hospital1 **]
   cefepime
   hydralazine
   coumadin 0.5
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-10-2**] 08:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.1
C (98.8
   HR: 60 (60 - 66) bpm
   BP: 144/60(87) {114/50(68) - 148/74(98)} mmHg
   RR: 24 (18 - 33) insp/min
   SpO2: 99%
   Heart rhythm: AV Paced
   Wgt (current): 94.7 kg (admission): 68 kg
   Height: 70 Inch
             Total In:
                                                                  2,486 mL
                                                                  1,307 mL
   PO:
             TF:
                                                                  1,446 mL
                                                                    512 mL
   IVF:
                                                                    490 mL
                                                                    135 mL
   Blood products:
   Total out:
                                                                  1,490 mL
                                                                    930 mL
   Urine:
                                                                  1,490 mL
                                                                    930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    996 mL
                                                                    377 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 12
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 208
   PIP: 23 cmH2O
   Plateau: 11 cmH2O
   SpO2: 99%
   ABG: 7.48/38/103/25/4
   Ve: 13.8 L/min
   PaO2 / FiO2: 343
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: bilateral rhonchi)
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.1 g/dL
   294 K/uL
   139 mg/dL
   1.8 mg/dL
   25 mEq/L
   4.4 mEq/L
   46 mg/dL
   106 mEq/L
   138 mEq/L
   24.0 %
   9.6 K/uL
        [image002.jpg]
                             [**2135-9-28**]  10:23 PM
                             [**2135-9-29**]  01:00 AM
                             [**2135-9-29**]  03:51 AM
                             [**2135-9-30**]  03:58 AM
                             [**2135-9-30**]  04:11 AM
                             [**2135-10-1**]  05:25 AM
                             [**2135-10-1**]  12:35 PM
                             [**2135-10-1**]  08:35 PM
                             [**2135-10-2**]  03:03 AM
                             [**2135-10-2**]  03:30 AM
   WBC
   9.2
   8.0
   9.8
   9.6
   Hct
   23.6
   22.6
   22.7
   24.0
   Plt
   181
   180
   233
   294
   Cr
   2.2
   1.9
   1.9
   1.8
   TCO2
   29
   29
   29
   28
   29
   29
   Glucose
   165
   187
   160
   139
   Other labs: PT / PTT / INR:14.2/29.9/1.2, CK / CKMB /
   Troponin-T:154/13/0.07, ALT / AST:53/60, Alk Phos / T Bili:158/0.7,
   Differential-Neuts:91.0 %, Lymph:6.5 %, Mono:0.8 %, Eos:1.6 %,
   Fibrinogen:300 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.3 g/dL, LDH:364
   IU/L, Ca++:7.9 mg/dL, Mg++:2.5 mg/dL, PO4:2.5 mg/dL
   Imaging: cxr imprivng R ll infiltrates
   Microbiology: dilantin 10 (corrected)
   sputum an S klebs
   Assessment and Plan
   82 y/o M w/afib, s/p AVR, diastolic CHF, admitted with bilateral
   subdural hematoma and intraparenchymal bleed s/p fall now one week s/p
   evacuation, course complicated by reintubation for resp failure/pna.
   Overall course minimally changed. He continues to have marginal MS [**First Name (Titles) **]
[**Last Name (Titles) 2167**]ing aspiration, though vent requirements, BP, HR unchanged.
   1.  Respiratory failure: Likely due to VAP +/- aspiration, cxr with
   improving infiltrates.  On AC with improving oxygenation/
    - Vanc day 8, trough 9.8 so will increase to q 24
    - cefepime day [**5-12**]
    - if persistent purulent sputum will recheck sputum cx
    - Vanc dosing adjusted for low trough, will f/u level today
   2. Persistent fevers: likely [**2-5**] pna, will cont monitor blood cx,
   change lines if + blood cx, currently have been negative
   3. Subdural hematoma: s/p craniotomy and evacuation.  Head CTs have
   been stable despite what effectively is systemic anticoagulation
   (elevated INR and PTT).
   - continue to hold dilantin given elevated level although now is near
   therapeutic - goal [**10-24**], was 10 on [**10-2**]
   - will start dilantin 50 mg
   - EEG w/toxic-metabolic encephalopathy
   3. Diastolic CHF: s/p multiple admissions for this in past.  Appears
   relatively euvolemic and pulmonary infiltrates likely
   pneumonia/aspiration as opposed to CHF.
    - cont metoprolol
   5. Coagulopathy/anticoagulation:  INR and PTT are improving on their
   own.  [**Month (only) 51**] have been due to interaction with dilantin.  Will restart
   coumadin at lower dose than home dose.  INR 1.3.  Will start coumadin 1
   mg tonight and continue to adjustbased on INR, dilantin dose.
    - will continue coumadin 1 mg and f/u INR in am
    - goal [**2-6**] [**2-5**] [**Hospital3 **] avr
   6. Anemia:  Hct now stable.  Anemia labs c/w ACD, has hx of abnl bone
   marrow biopsy.  Hemolysis labs negative.  No current indication for
   transfusion.  Will transfuse if symptomatic or hct < 21
   7. CKD: At baseline.
    8. Altered mental status: poor interaction off sedation, unchanged,
   likely multifactorial related to sdh, critical illness
   9. Hyponatremia: Na improving, was getting fwb q 4 h, will change to q
   6 H
   10. transaminitis resolving
   8. Hypertension: Given bleed, goal SBP <160
   - hydralazine 37.5 mg TID
   - Imdur 20 [**Hospital1 **]
   - metoprolol 25mg [**Hospital1 7**]
   9. Atrial fibrillation:  Amiodarone 200 [**Hospital1 7**]
   10. Hypothyroidism:  On levothyroxine.
   - TSH suppressed, check free T4  (TSH was 0.04, T4 was 5.6)
   11. Altered mental status:  Is minimally responsive off of sedation.
   Likely due to subdural.  EEG without active seizure activity.  Mental
   status not improved with lower dilantin level.
   - holding dilantin
   12. Hyperlipidemia: continue statin
   13. Hypernatremia: Resolved.  Continue free water.
   14. Elevated LFTs: Improved, likely [**2-5**] dilantin.
   15. Goals of
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2135-10-2**] 02:26 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2135-9-19**] 10:14 AM
   20 Gauge - [**2135-9-25**] 04:30 PM
   18 Gauge - [**2135-9-28**] 12:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   family meeting to be held on Monday
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2135-10-03 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Some spontenous, nonpurposeful eye opening
   - family meeting at 1pm
   - Failed PSV trial, rates in 40s and dropping tidal volumes
   Allergies:
   Procainamide
   Arthralgia/Arth
   Morphine
   Confusion/Delir
   Last dose of Antibiotics:
   Cefipime - [**2135-10-2**] 04:00 AM
   Vancomycin - [**2135-10-2**] 10:27 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2135-10-2**] 08:00 AM
   Fentanyl - [**2135-10-2**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-10-3**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.6
C (99.7
   HR: 60 (60 - 73) bpm
   BP: 132/58(80) {96/46(64) - 144/70(93)} mmHg
   RR: 33 (11 - 36) insp/min
   SpO2: 97%
   Heart rhythm: AV Paced
   Wgt (current): 94.7 kg (admission): 68 kg
   Height: 70 Inch
             Total In:
                                                                  3,412 mL
                                                                    866 mL
   PO:
             TF:
                                                                  1,442 mL
                                                                    442 mL
   IVF:
                                                                    490 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  1,955 mL
                                                                    500 mL
   Urine:
                                                                  1,955 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,457 mL
                                                                    366 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 12
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: RR >35, CMO
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   SpO2: 97%
   ABG: ///25/
   Ve: 14.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   375 K/uL
   7.7 g/dL
   142 mg/dL
   1.7 mg/dL
   25 mEq/L
   4.5 mEq/L
   43 mg/dL
   109 mEq/L
   139 mEq/L
   22.6 %
   10.4 K/uL
        [image002.jpg]
                             [**2135-9-29**]  01:00 AM
                             [**2135-9-29**]  03:51 AM
                             [**2135-9-30**]  03:58 AM
                             [**2135-9-30**]  04:11 AM
                             [**2135-10-1**]  05:25 AM
                             [**2135-10-1**]  12:35 PM
                             [**2135-10-1**]  08:35 PM
                             [**2135-10-2**]  03:03 AM
                             [**2135-10-2**]  03:30 AM
                             [**2135-10-3**]  03:58 AM
   WBC
   9.2
   8.0
   9.8
   9.6
   10.4
   Hct
   23.6
   22.6
   22.7
   24.0
   22.6
   Plt
   181
   180
   233
   294
   375
   Cr
   2.2
   1.9
   1.9
   1.8
   1.7
   TCO2
   29
   29
   28
   29
   29
   Glucose
   165
   187
   160
   139
   142
   Other labs: PT / PTT / INR:13.9/28.0/1.2, CK / CKMB /
   Troponin-T:154/13/0.07, ALT / AST:57/62, Alk Phos / T Bili:157/0.6,
   Differential-Neuts:91.0 %, Lymph:6.5 %, Mono:0.8 %, Eos:1.6 %,
   Fibrinogen:300 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.2 g/dL, LDH:342
   IU/L, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:2.8 mg/dL
   Microbiology: no new data
   Assessment and Plan
   Patient is am 82 y/o M with history of atrial fibrillation and AVR on
   coumadin, s/p Pacemaker, diastolic CHF, admitted after fall with SDH
   and is now s/p neurosurgery evacuation ([**9-19**]) for bleed with hernation,
   course complicated by diastolic CHF exacerbation, and now with VAP
   Respiratory failure: Initially intubated for [**Doctor First Name 213**] [**9-19**], extubated [**9-20**].
   ReIntubated [**9-24**] after 1 day on bipap for increased work of breathing
   and airway protection in setting of pulmonary edema and pneumonia.
   Etiology of resp failure is infectious and cardiogenic.
   - patient overbreathing vent, likely will remain slightly alkalotic
   because of neurologic tachypnea
   - failed pressure support trial again [**10-3**] secondary to tachypnea,
   failed PSV trial [**9-28**] [**2-5**] to alkalosis. Has been stable on AC 50%/ 450/
   14/ 5, for several days
   - no currently on sedation, not responsive to command
   - Pending family meeting, he may be extubated today.
   Pneumonia/Fever: Patients fever curve coming down. Culture from [**9-24**]
   grew 4+ Strep pneumo and sparse klebsiella. [**9-26**] sputum growing MSSA
   and pansensitive kelbs.
   - followup all blood, urine and sputum cultures.
   - Vancomycin (day 1: [**9-24**]) continue until 8 day course of cefepime is
   complete
   - cefepime (day 1 [**9-27**])  total 8 day course. Today [**7-12**].
   - will resite a-line if his blood cultures are positive.
   Subdural hemorrhage: s/p Craniotomy and evacuation [**9-19**], done
   emergently. [**9-26**] and [**9-27**] AM, had seizure like activity of the left
   arm, head CT unchanged. [**9-24**] sluggish  pupil, CT unchanged
   - will start dilantin at 50mg daily as level is in normal range today.
   Will check levels qAM
   - EEG: no epileptiform activity, but mildly abnormal
   - Corrected dilantin ~ 10 yesterday
   Anemia: Patient also has underlying myeloid metaplasia. Has been slowly
   trending down since transfusion on [**9-24**]. Hct trending down daily, 22.6
   today. Will monitor daily
   -  continue to check Hcts daily
   - hemolysis labs, DIC: negative
   - iron studies: iron deficient but TIBC is low
   - guaiac stool
   - transfuse Hct < 21
   AVR/Coagulpathy: patient with AVR with [**Hospital3 1974**] valve, goal INR [**2-6**]
   continue coumadin because of AVR, without heparin or bolus per previous
   conversations between cardiology and neurosurgery.
   - goal INR [**2-6**].
   - dose Coumadin 1mg today, check level daily (pt recently
   coagulopathic)
   Diastolic heart failure: EF >60% ([**3-12**]). Patient was on lasix drip. on
   torsemide 20mg daily at home. currently looks euvolemic. JVP is
   diffucult to assess
   - Goal I/O -1L. looks wet today, Lasix 20mg IV, repeat as needed
   Altered mental status: Patient unresponsive off sedation.  Etiology is
   likely multifactorial: subdural, hypernatremia (resolved), uremia, and
   infection. Also high dilantin level as part of AMS . Per neurology, was
   following commands prior to intubation.
   - EEG: neg for sz
   - Dilantin coming down
   - Infection: being treated
   - Na: improving
   Hypernatremia: resolving, likely contributing to mental status
   - decrease free water boluses from 300ccq4 to q8 as Na coming into
   normal range
   Transaminitis: Resolving. u/s showing congestion, likely etiology.
   Previous shock liver, hepatitis panel normal
   - will trend LFTs
 now trending down
   - right upper quad u/s: hepatic congestion
   CKD: baseline creatinine is 2.3-2.8. currently 1.7
   - redoes meds for improving creatinine
   Hypertension: now better controlled, BP ranges from 110-130 systolic.
   - continue  Hydralazine to 37.5mg TID
   - Isosorbide mononitrate 20 PO BID
   - metoprolol 25mg [**Hospital1 7**]
   Atrial fibrillation:
   Amiodarone 200 [**Hospital1 7**]
   Hypothyroidism: TSH low, 0.08, T4 5.6 (normal)
   - continue home dose of 75mcg PO levothyroxine
   HYperlipidemia: discontinue statin in setting of liver damage.
   BPH: holding  tamsulosin and finastride, as they are not crushable
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2135-10-2**] 07:05 PM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2135-9-19**] 10:14 AM
   20 Gauge - [**2135-9-25**] 04:30 PM
   18 Gauge - [**2135-9-28**] 12:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments: Another family meeting at
   1pm today
   Code status: DNR (do not resuscitate)
   Disposition: